US05712312
N-(1-METHOXY-2,3-DIHYDRO-1H-PHENALEN-2-YL-)ACETAMIDE
The N-(1-hydroxy-2,3-dihydro-1H-phenalen-2-yl)acetamide obtained is stage C of Example 1 (1 mmol, 290 mg) is dissolved in 10 cm3 of anhydrous DMF. Under an inert atmosphere, NaH (1 mmol, 0.05 g of 60% in oil suspension) and then methyl iodide (0.09 cm3, 1.2 eq) are added in the reaction mixture. Stirring is maintained at ambiant temperature for 4h30 and the solvent is evaporated. The residue is taken up in CH2 Cl2 and the solution is flitrated. The filtrate is evaporated and purified by chromatography on silica gel (particle size 60-200 μm); eluent: CH2Cl2 : MeOH 99 :-1 v/v. The title product is isolated. This is and amorphous product, which is a diastereoisomer mixture.

reactant | N-(1-hydroxy-2,3-dihydro-1H-phenalen-2-yl)acetamide | OC1C(CC2=CC=CC3=CC=CC1=C23)NC(C)=O | C15H15NO2
reactant | NaH | 1 mmol, 0.05 g | [H-].[Na+]
reactant | methyl iodide | 0.09 cm3, 1.2 eq | CI | CH3I
solvent | DMF | 10 cm3 | CN(C)C=O | C3H7NO
product | N-(1-METHOXY-2,3-DIHYDRO-1H-PHENALEN-2-YL-)ACETAMIDE | COC1C(CC2=CC=CC3=CC=CC1=C23)NC(C)=O | C16H17NO2
